US08022062B2
(±)-2-(1-Azidoethyl)-5-methylthiophene:
Add DBU (1.228 g, 1.2 mL, 8.07 mmol) to a solution of (−)-2-(1-hydroxyethyl)-5-methylthiophene (0.955 g, 6.72 mmol) and diphenylphosphoryl azide (2.22 g, 1.74 mL, 8.07 mmol) in anhydrous toluene. Stir at room temperature for 18 h. Dilute the mixture with EtOAc and wash with water and 0.5N aqueous HCl. Dry the organic phase over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 19:1) to obtain the desired intermediate as an oil (0.875 g, 78%). GC-MS m/z 167 (M+).

reactant | DBU | 8.07 mmol, 1.2 mL, 1.228 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (−)-2-(1-hydroxyethyl)-5-methylthiophene | 6.72 mmol, 0.955 g | OC(C)C=1SC(=CC1)C | C7H10OS
reactant | diphenylphosphoryl azide | 8.07 mmol, 1.74 mL, 2.22 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-(1-Azidoethyl)-5-methylthiophene | 0.875 g, 78% | N(=[N+]=[N-])C(C)C=1SC(=CC1)C | C7H9N3S
